US08247594B2
3-Amino-4-cyano-N[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (3.01 g, 6.95 mmol) (Example I2) was dissolved in acetonitrile (50 ml) and aqueous formaldehyde (36.5% w/v) (0.64 ml, 6.95 mmol) and acetic acid (30 ml) were added successively. The reaction mixture was stirred at ambient temperature for 45 minutes. Then sodium borohydride (0.44 g, 6.95 mmol) and more acetic acid (5 ml) were added. The reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated. The residue was dissolved in ethyl acetate and the solution washed with aqueous sodium hydroxide (1N). The aqueous phase was extracted three times with ethyl acetate (200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:5) to give 4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-3-methylamino-benzamide (1.80 g, 58% yield). M.p. 204-206° C. 1H-NMR (400 MHz, CDCl3): 7.53 (d, 1H), 7.37 (s, 3H), 7.23 (s, 1H), 7.10 (q, 1H), 5.88 (d, 1H), 3.02 (d, 3H), 2.35 (s, 6H) ppm. The method as described in Example P1 was then used to prepare Compound No. A3 of Table A.

reactant | 3-Amino-4-cyano-N[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 6.95 mmol, 3.01 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=CC1C#N | C19H14F7N3O
reactant | formaldehyde | 6.95 mmol, 0.64 ml | C=O | CH2O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 6.95 mmol, 0.44 g | [BH4-].[Na+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-3-methylamino-benzamide | 1.80 g, 58% yield | C(#N)C1=C(C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C1)NC | C20H16F7N3O
